US07314884B2
Step A]: [2-(4,5-Dimethyl-thiazol-2-ylamino)-ethyl]-carbamic acid tert-butyl ester
A solution of (2-thioureido-ethyl)-carbamic acid tert-butyl ester [CAS 331779-96-5] (3.6 g), 3-bromo-2-butanone (2.45 g), and DIPEA (5.5 ml) in ethanol (100 ml) was stirred overnight at RT and refluxed 1 hour. The mixture was concentrated. Ethyl acetate was added. Insoluble parts were filtered off and the remaining solution was extracted with brine. The organic layer was dried, evaporated and purified by flash chromatography yielding after crystallization 0.86 g of white crystals. MS (ISP): 272.2 (MH+).

reactant | (2-thioureido-ethyl)-carbamic acid tert-butyl ester | 3.6 g | C(C)(C)(C)OC(NCCNC(=S)N)=O | C8H17N3O2S
reactant | 3-bromo-2-butanone | 2.45 g | BrC(C(C)=O)C | C4H7BrO
reactant | DIPEA | 5.5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [2-(4,5-Dimethyl-thiazol-2-ylamino)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNC=1SC(=C(N1)C)C)=O | C12H21N3O2S
